US06596732B2
(2S)-N,N-Dimethyl-2,3-dihydro-1H-indole-2-carboxamide
A mixture of 5 g of (2S)-1-(tert-butoxycarbonyl)-2,3-dihydro-1H-indole-2-carboxylic acid (commercial) and of 5.8 g of triethylamine in 100 ml of DCM is cooled in an ice bath, 8.4 g of BOP are added and the mixture is left stirring for 15 minutes. Dimethylamine gas is then added by sparging for 10 minutes and the mixture is left stirring for 3 hours at AT. The reaction mixture is concentrated under vacuum, the residue is extracted with AcOEt, the organic phase is washed with water, with a 5% Na2CO3 solution and with a 5% KHSO4 solution and dried over Na2SO4, and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with a DCM/AcOEt (85/15, v/v) mixture. 4.1, g of the expected product are obtained.

reactant | (2S)-1-(tert-butoxycarbonyl)-2,3-dihydro-1H-indole-2-carboxylic acid | 5 g | C(C)(C)(C)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C14H17NO4
reactant | triethylamine | 5.8 g | C(C)N(CC)CC | C6H15N
reactant | BOP | 8.4 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Dimethylamine | CNC | C2H7N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (2S)-N,N-Dimethyl-2,3-dihydro-1H-indole-2-carboxamide | CN(C(=O)[C@H]1NC2=CC=CC=C2C1)C | C11H14N2O
